US04060528
A mixture of 4.27 parts of lithium diisopropylamide and 50 parts of tetrahydrofuran is cooled to -78° C. Then there are added 10.4 parts of methyl 2-[p-(2-thenoyl)phenyl]acetate and the mixture is stirred for 40 minutes. 6.25 Parts of methyl iodide dissolved in 2.15 parts of hexamethylphosphoramide are added at -78° C and the mixture is further stirred for one hour after which it is allowed to warm up to room temperature. The whole is poured onto water. The resulting mixture is extracted with diisopropylether. The organic phase is washed with water, dried and evaporated. The residue is crystallized from diisopropylether at 0° C, yielding methyl p-(2-thenoyl)hydratropate.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methyl 2-[p-(2-thenoyl)phenyl]acetate | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)CC(=O)OC | C14H12O3S
reactant | methyl iodide | CI | CH3I
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl p-(2-thenoyl)hydratropate | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)OC)C)C=C1 | C15H14O3S
